US08309577B2
A mixture of 4,6-dichloropyrimidine (1.8 g, 12 mmol), 4-chloro-1H-imidazole (1.23 g, 12.00 mmol), and cesium carbonate (3.91 g, 12.00 mmol) was stirred in DMF (8 mL) at room temperature for 18 h. The reaction was diluted into water and extracted with EtOAc. The combined organic layers were concentrated and purified by flash chromatography on a 120 g silica gel cartridge with 0 to 40% ethyl acetate in hexane to yield 4-chloro-6-(4-chloro-1H-imidazol-1-yl)pyrimidine (1.41 g, 54.6% yield). The positive identification of the 4-chloroimidazole regioisomer was accomplished by its NMR NOE properties. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.86 (1H, d, J=0.76 Hz), 8.33 (1H, d, J=1.51 Hz), 7.54 (1H, d, J=1.76 Hz), 7.30 (1H, d, J=0.76 Hz). LCMS: RT=0.81 min, MH+=215.1

reactant | 4,6-dichloropyrimidine | 12 mmol, 1.8 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-chloro-1H-imidazole | 12.00 mmol, 1.23 g | ClC=1N=CNC1 | C3H3ClN2
reactant | cesium carbonate | 12.00 mmol, 3.91 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-(4-chloro-1H-imidazol-1-yl)pyrimidine | 1.41 g, 54.6% yield | ClC1=NC=NC(=C1)N1C=NC(=C1)Cl | C7H4Cl2N4
